US06291689B1
Ethyl 1-(4-fluorophenyl)-1,3-dihydroisobenzofuran-5-carboxylate
Crude (4-ethoxycarbonyl-2-hydroxymethylphenyl)(4-fluorophenyl)methanol (30 g) is dissolved in H3PO4 (60%, 250 ml) and the solution is heated to 80° C. for 1.5 hours. Water (300 ml) and EtOAc (100 ml) is added and the phases are separated. The aqueous phase is further extracted with EtOAc (100 ml). The organic phases are joined and the solvents are removed in vacuo. The yield of the remaining somewhat impure oil is 30 g.

reactant | (4-ethoxycarbonyl-2-hydroxymethylphenyl)(4-fluorophenyl)methanol | 30 g | C(C)OC(=O)C1=CC(=C(C=C1)C(O)C1=CC=C(C=C1)F)CO | C17H17FO4
reactant | Water | 300 ml | O | H2O
reactant | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | H3PO4 | 250 ml | OP(=O)(O)O | H3O4P
product | Ethyl 1-(4-fluorophenyl)-1,3-dihydroisobenzofuran-5-carboxylate | FC1=CC=C(C=C1)C1OCC2=CC(=CC=C12)C(=O)OCC | C17H15FO3
